US05998470
Preparation of 1-(Cbz-leucinyl)-amino-3-(2-dibenzofuransulfonamido)-(S)-butan-2-one
1-(Cbz-leucinyl)-amino-3-(2-dibenzofuransulfonamido)-(S)-butan-2-ol (240 mg, 0.4 mmol) was dissolved in acetone (2 ml). Jones reagent (0.5 ml, 1.5 M) was added dropwise and the reaction as stirred at RT overnight. The excess Jones reagent was then quenched with isopropanol (1.0 ml), then the reaction as diluted with EtOAc (20 ml) and was extracted with water (2×20 ml) to remove the inorganic salts. The combined organics were dried with magnesium sulfate, filtered, concentrated, and chromatographed (silica gel, 2-5% MeOH/methylene chloride) to give the title compound as a white solid (70 mg, 29%). MS(ES) M-H+ =578.

reactant | 1-(Cbz-leucinyl)-amino-3-(2-dibenzofuransulfonamido)-(S)-butan-2-ol | 0.4 mmol, 240 mg | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)[C@H](C(C(C)NS(=O)(=O)C1=CC2=C(OC3=C2C=CC=C3)C=C1)O)N | C30H35N3O7S
reactant | Jones reagent | 1.5 M, 0.5 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | 1-(Cbz-leucinyl)-amino-3-(2-dibenzofuransulfonamido)-(S)-butan-2-one | 70 mg, 29% | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)[C@@H](C(C(C)NS(=O)(=O)C1=CC2=C(OC3=C2C=CC=C3)C=C1)=O)N | C30H33N3O7S
